US07700641B2
Synthesis of 6-(trifluoromethoxy)-1′-{[5-(trifluoromethyl)-2-furyl]methyl}spiro[1-benzofuran-3,3′-indol]-2′(1′H)-one
Following the procedure described in EXAMPLE 10.47, and making non-critical variations using 6-(trifluoromethoxy)spiro[1-benzofuran-3,3′-indol]-2′(1′H)-one to replace 4′-bromospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one, the title compound was obtained (82%) as a white solid: mp 78-80° C.; 1H NMR (300 MHz, CDCl3) δ 7.33 (td, 1H), 7.21-6.98 (m, 3H), 6.86-6.73 (m, 2H), 6.67 (s, 2H), 6.42 (d, 1H), 5.09 (d, 1H), 5.04 (d, 1H), 4.88 (d, 1H), 4.77 (d, 1H); 13C NMR (75 MHz, CDCl3) δ 176.7, 161.7, 151.9, 150.6, 141.5, 131.7, 129.5, 127.5, 124.2, 124.2, 124.0, 114.1, 112.8, 112.8, 109.6, 109.2, 104.3, 80.7, 57.6, 37.1; MS (ES+) m/z 470 (M+1).

reactant | 6-(trifluoromethoxy)spiro[1-benzofuran-3,3′-indol]-2′(1′H)-one | FC(OC1=CC2=C(C=C1)C1(C(NC3=CC=CC=C13)=O)CO2)(F)F | C16H10F3NO3
reactant | 4′-bromospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | BrC1=C2C3(C(NC2=CC=C1)=O)COC=1C3=CC3=C(OCO3)C1 | C16H10BrNO4
product | 6-(trifluoromethoxy)-1′-{[5-(trifluoromethyl)-2-furyl]methyl}spiro[1-benzofuran-3,3′-indol]-2′(1′H)-one | FC(OC1=CC2=C(C=C1)C1(C(N(C3=CC=CC=C13)CC=1OC(=CC1)C(F)(F)F)=O)CO2)(F)F | C22H13F6NO4
